US07384967B2
3-(2-Isopropoxy)-4-nitrotoluene (0.72 g, 74%) was prepared from 2-propanol and 3-fluoro-4-nitrotoluene (0.77 g, 5.0 mmol) following the general procedure G. This was reduced to 2-isopropoxy-4-methyl-aniline (0.42 g, 70%) following general procedure C. 1-(2-Isopropoxy-4-methyl-phenyl)-3-thiazol-2-yl-urea (180 mg, 62%) was prepared from 2-isopropoxy-4-methyl-aniline (165 mg, 1.0 mmol) and 2-aminothiazole (100 mg, 1.0 mmol) following the general procedure D.

reactant | 3-fluoro-4-nitrotoluene | 5.0 mmol, 0.77 g | FC=1C=C(C=CC1[N+](=O)[O-])C | C7H6FNO2
reactant | 2-isopropoxy-4-methyl-aniline | 0.42 g | C(C)(C)OC1=C(N)C=CC(=C1)C | C10H15NO
reactant | 2-isopropoxy-4-methyl-aniline | 1.0 mmol, 165 mg | C(C)(C)OC1=C(N)C=CC(=C1)C | C10H15NO
reactant | 2-aminothiazole | 1.0 mmol, 100 mg | NC=1SC=CN1 | C3H4N2S
reactant | 2-propanol | CC(C)O | C3H8O
product | 1-(2-Isopropoxy-4-methyl-phenyl)-3-thiazol-2-yl-urea | 180 mg, 62% | C(C)(C)OC1=C(C=CC(=C1)C)NC(=O)NC=1SC=CN1 | C14H17N3O2S
